US08729095B2
At room temperature, to a tetrahydrofuran solution (60 ml) of 5-bromo-3-nitropyridine-2-carbonitrile (6.00 g) was added a tetrahydrofuran solution (1 M, 52.8 ml) of tetrabutylammonium fluoride, followed by stirring for 1 hour. The reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed sequentially with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford 5-bromo-3-fluoropyridine-2-carbonitrile. To a mixed solvent solution of this in 1,2-dimethoxyethane (120 ml) and water (30 ml) were added 2-hydroxyphenylboronic acid (4.37 g), sodium carbonate (8.39 g) and tetrakis(triphenylphosphine)palladium (1.52 g), followed by stirring under heating at reflux for 2 hours. The reaction solution was brought back to room temperature, poured into ice water, and extracted with ethyl acetate. The organic layer was washed sequentially with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford 3-fluoro-5-(2-hydroxyphenyl)pyridine-2-carbonitrile (2.73 g).

reactant | 5-bromo-3-nitropyridine-2-carbonitrile | 6.00 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 M, 52.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-bromo-3-fluoropyridine-2-carbonitrile | BrC=1C=C(C(=NC1)C#N)F | C6H2BrFN2
